US07037929B1
Preparation of N-(5-isopropyl-1,3-thiazol-2-yl)-2-{3-[3-(4-morpholinyl) propoxy]phenyl}acetamide
A mixture of 2-[3-(3-chloropropoxy)phenyl]-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide (1.00 g, 2.8 mmoles), morpholine (1.24 ml, 14.2 mmoles), potassium iodide (0.24 g, 1.4 mmoles) in anhydrous dimethylformamide (3.5 ml) was heated at 100° C. for 6 hours. The solution was acidified and extracted with ether to eliminate unreacted products; then the solution was basified and extracted with ether. The solvent was evaporated to dryness to give the product as an oily semisolid which was purified by flash chromatography with dichloromethane:methanol (97:3) as eluent (1.0 g, 87% yield)

reactant | 2-[3-(3-chloropropoxy)phenyl]-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide | 2.8 mmoles, 1.00 g | ClCCCOC=1C=C(C=CC1)CC(=O)NC=1SC(=CN1)C(C)C | C17H21ClN2O2S
reactant | morpholine | 14.2 mmoles, 1.24 ml | N1CCOCC1 | C4H9NO
reactant | potassium iodide | 1.4 mmoles, 0.24 g | [I-].[K+]
solvent | dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | N-(5-isopropyl-1,3-thiazol-2-yl)-2-{3-[3-(4-morpholinyl) propoxy]phenyl}acetamide | 87% yield | C(C)(C)C1=CN=C(S1)NC(CC1=CC(=CC=C1)OCCCN1CCOCC1)=O | C21H29N3O3S
